US07459554B2
To a solution of 3-(8-amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenol (28 mg, 0.1 mmol) in anhydrous DMF (1 ml) was added cesium carbonate (49 mg, 0.15 mmol) followed by a solution of 3-methoxybenzyl bromide (20 mg, 0.1 mmol) in DMF (0.5 ml). The reaction was stirred at room temperature overnight. The reaction was poured onto saturated NaHCO3 (10 ml) and extracted with EtOAc (2×10 ml). The combined organics were washed with water (10 ml) and aqueous brine solution (3×10 ml), dried (MgSO4), filtered and concentrated in vacuo, to give 3-cyclobutyl-1-[3-(3-methoxy-benzyloxy)-phenyl]-imidazo[1,5-a]pyrazin-8-ylamine as a brown solid (24.1 mg, 60%): 1H NMR (400 MHz, CDCl3) δ 7.42 (t, 1H, J=7.8 Hz), 7.35-7.27 (m, 3H), 7.13 (d, 1H, J=5.1 Hz), 7.08-7.03 (m, 4H), 6.90 (d, 1H, J=8.6 Hz), 5.17 (s, 2H), 3.84 (s, 3H), 3.86-3.79 (m, 1H, obscured), 2.72-2.62 (m, 2H), 2.56-2.47 (m, 2H), 2.25-2.14 (m, 1H), 2.11-2.02 (m, 1H), 2H not observed (NH2); LCMS (ES+) m/z 401.34 [MH+] at Rt 3.20 min.

reactant | 3-(8-amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenol | 0.1 mmol, 28 mg | NC=1C=2N(C=CN1)C(=NC2C=2C=C(C=CC2)O)C2CCC2 | C16H16N4O
reactant | cesium carbonate | 0.15 mmol, 49 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-methoxybenzyl bromide | 0.1 mmol, 20 mg | COC=1C=C(CBr)C=CC1 | C8H9BrO
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 3-cyclobutyl-1-[3-(3-methoxy-benzyloxy)-phenyl]-imidazo[1,5-a]pyrazin-8-ylamine | 24.1 mg, 60% | C1(CCC1)C1=NC(=C2N1C=CN=C2N)C2=CC(=CC=C2)OCC2=CC(=CC=C2)OC | C24H24N4O2
